US04882085
6.6 g of 2-dodecyloxypropanol and 20 ml of dry pyridine were mixed and cooled with NaCl-ice. 8.0 g of p-toluenesulfonic acid chloride was added little by little, and the reaction was continued for 9 hours. The reaction mixture returned to room temperature was mixed with a mixture of 30 ml of conc. hydrochloric acid added to 110 g of water, and the mixture was extracted with benzene and dried over anhydrous Na2SO4. Evaporation of benzene gave (2-dodecyloxypropyl) p-toluenesulfonate as an oily product. Yield: 10.7 g.

reactant | 2-dodecyloxypropanol | 6.6 g | C(CCCCCCCCCCC)OC(CO)C | C15H32O2
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonic acid chloride | 8.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | water | 110 g | O | H2O
product | (2-dodecyloxypropyl) p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCC(C)OCCCCCCCCCCCC)C | C22H38O4S
